US06046192
Ethyl (s)-4-[2-(tert-butoxycarbonylamino)-1,2,3,4-tetra-hydronaphthalen-7-yloxy]butyrate (988 mg) was dissolved in a mixed solvent of methanol (15 ml) and ethanol (15 ml), and 2N aqueous sodium hydroxide solution (3.0 ml) was added to the solution at room temperature with stirring. After reaction for 2 hours, the reaction mixture was concentrated in vacuo. To the resulting residue was added 10% aqueous citric acid solution, and the mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo to give (S)-4-[2-(tert-butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yloxy]butyric acid (914 mg) having a melting point of 150-153° C.

reactant | Ethyl (s)-4-[2-(tert-butoxycarbonylamino)-1,2,3,4-tetra-hydronaphthalen-7-yloxy]butyrate | 988 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)OCCCC(=O)OCC | C21H31NO5
solvent | methanol | 15 ml | CO | CH4O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 2N, 3.0 ml | [OH-].[Na+]
product | (S)-4-[2-(tert-butoxycarbonylamino)-1,2,3,4-tetrahydronaphthalen-7-yloxy]butyric acid | 914 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)OCCCC(=O)O | C19H27NO5
